US06593348B2
3-Bromoanisole (50.0 g, 0.264 mol) was dissolved in 150 mL of THF and then chilled to −78° C. n-Butyllithium (1.6M, 175 mL, 0.276 mol) was then added while maintaining the reaction temperature at −70° C. or below. After complete addition, the reaction mixture was stirred for an additional 60 min. 1-Benzyl4-piperidone in 150 mL of THF was then added at such a rate as to maintain the reaction temperature at −70° C. or below. The reaction was stirred at −70° C. for an additional 15 min, then the dry ice-acetone bath was removed, and the reaction was allowed to come to room temperature. Brine (400 mL) was added, and the organic layer was separated and washed with an additional 300 mL of brine. The organic layer was separated, dried (K2CO3), and concentrated in vacuo. 6N HCl (250 mL) was added to the oily residue which was then washed with EtOAc. The aqueous layer was separated, basified with 50% NaOH, and extracted with EtOAc. The EtOAc layer was separated, dried (K2CO3), and concentrated in vacuo to give 75.7 g of 4-(3-methoxyphenyl)-1-benzyl4-piperidinol as an orange oil. A sample was chromatographed on silica gel using hexane/EtOAc (7:3) mixtures as the eluent to afford a yellow oil which was dissolved in ether and treated with ethereal hydrochloric acid to give 4-(3-methoxyphenyl)-1-benzyl-4-piperidinol hydrochloride as a white solid (mp 195-197° C.). 1H NMR (CDCl3) (free base) 5 (ppm) 1.64-1.75 (m, 2H), 2.09-2.21 (m, 2H), 2.41-2.51 (m, 2H), 2.71-2.80 (m, 2H), 3.51 (s, 2H), 3.80 (s, 3H), 6.77-6.81 (m, 1H), 7.06-7.09 (m, 2H), 7.23-7.35 (m, 6H). Anal. Calcd for C19H23NO2 HCl.1/2 H2O: C, 66.56; H, 7.06; N, 4.09. Found: C, 66.41; H, 7.31; N, 4.33.

reactant | 3-Bromoanisole | 0.264 mol, 50.0 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | n-Butyllithium | 0.276 mol, 1.6M, 175 mL | C(CCC)[Li]
reactant | 1-Benzyl4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-(3-methoxyphenyl)-1-benzyl4-piperidinol | 75.7 g | COC=1C=C(C=CC1)C1(CCN(CC1)CC1=CC=CC=C1)O | C19H23NO2
